US06897231B2
B. N-(2-carbamoylethyl)[3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide
A sealed tube containing tert-butyl 3-{[1-acetyl-3-(4-fluorophenyl)-1H-indazol-5-yl]carbonylamino}propanoate (115 mg, 0.270 mmol) and methanol saturated with ammonium hydroxide (2 mL) was heated to 80° C. for 18 hours. The solution was condensed to give an oil. The oil was dissolved in dimethyl formamide (5 mL) with N—N′-carbonyldiimidazole (110 mg). The solution was allowed to stir for two hours at ambient temperature. Ammonium acetate (160 mg) was added and the reaction mixture was allowed to stir at ambient conditions under nitrogen for 18 hours. The mixture was condensed and extracted with 5% sodium bicarbonate and ethyl acetate. The extracts were dried over sodium sulfate, filtered and condensed to give the title compound (17 mg, 19% yield) after purification by preparative-HPLC. 1H NMR (DMSO-d6) δ 8.65 (br s, 1H), 8.47 (s, 1H), 8.00 (m, 2H), 7.84 (d, 1H), 7.59 (d, 1H), 7.43 (br, 1H), 7.35 (t, 2H), 6.84 (s, 1H), 3.45 (m, 2H), 2.39 (m, 2H); ES-MS (m/z) 327[M+1]+.

reactant | tert-butyl 3-{[1-acetyl-3-(4-fluorophenyl)-1H-indazol-5-yl]carbonylamino}propanoate | 0.270 mmol, 115 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)NCCC(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C23H24FN3O4
reactant | methanol | CO | CH4O
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | Ammonium acetate | 160 mg | C(C)(=O)[O-].[NH4+]
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(2-carbamoylethyl)[3-(4-fluorophenyl)(1H-indazol-5-yl)]carboxamide | 17 mg, 19% yield | C(N)(=O)CCNC(=O)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C17H15FN4O2
